US07368578B2
A mixture of ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (1.49 g), 4-[(E)-2-(2-tert-butyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol hydrochloride (1.32 g), potassium carbonate (1.00 g) and N,N-dimethylformamide (20 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl {4-[4-({4-[({4-[(E)-2-(2-tert-butyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate (1.11 g, yield 45%) as a yellow oil.

reactant | ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 1.49 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C23H24ClNO5
reactant | 4-[(E)-2-(2-tert-butyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol hydrochloride | 1.32 g | Cl.C(C)(C)(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O
reactant | potassium carbonate | 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl {4-[4-({4-[({4-[(E)-2-(2-tert-butyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 1.11 g, yield 45% | C(C)(C)(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C41H42N4O6S
